US05374772
Sodium hydroxide hydrolysis of 3-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester gave 3-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid (76% yield, mp 75°-76°).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 3-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester | COC(C1=C(C(=CC=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C42H60O6
product | 3-(octadecyloxy)-2-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid | 76% yield | C(CCCCCCCCCCCCCCCCC)OC=1C(=C(C(=O)O)C=CC1)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1 | C41H58O6
